US08076325B2
Step 1: 4-(7,8-Dimethoxy 1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl)-4-oxobutan-1-ol
To 6.0 g (29 mmol) of 7,8-dimethoxy-2,3,4,5-tetrahydro-1H-3-benzazepine in 30 mL of THF, at 0° C., there are added, dropwise, over 15 minutes, 11.6 mL (29 mmol/1 eq.) of 2.6M n-butyl lithium solution in hexane. The mixture is then cooled to about −78° C. and poured dropwise, over 10 minutes, into a solution of 2.7 mL (34.8 mmol/1.2 eq.) of gamma-butyrolactone in 15 mL of THF. Stirring is carried out at −78° C. for 30 minutes and the temperature is then brought to −30° C. and held there for 1 hour; the temperature is then allowed to return to ambient temperature, where stirring is carried out for 48 hours. The mixture is poured into 75 mL of saturated aqueous ammonium chloride solution and is then extracted twice with 120 mL of ethyl acetate. The combined organic phases are washed with 150 mL of saturated aqueous sodium chloride solution, dried over magnesium sulphate and concentrated. The residue is taken up in 300 mL of ethyl acetate and washed twice with 75 mL 1M aqueous hydrochloric acid solution. The combined aqueous acid phases are re-extracted twice with 100 mL of dichloromethane. The organic phases are combined, dried over magnesium sulphate and concentrated to yield the desired product.

reactant | 7,8-dimethoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 29 mmol, 6.0 g | COC1=CC2=C(CCNCC2)C=C1OC | C12H17NO2
reactant | n-butyl lithium | 29 mmol, 2.6M, 11.6 mL, 1 eq. | C(CCC)[Li]
reactant | gamma-butyrolactone | 34.8 mmol, 2.7 mL, 1.2 eq. | C1(CCCO1)=O | C4H6O2
reactant | ammonium chloride | 75 mL | [Cl-].[NH4+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-(7,8-Dimethoxy 1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl)-4-oxobutan-1-ol | COC1=CC2=C(CCN(CC2)C(CCCO)=O)C=C1OC | C16H23NO4
